Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal transaminases 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of HCV cirrhosis s/p Interferon/Ribavirin, 
chronic low back pain, depression who p/w transaminitis.

Pt was seen in ___ ___ ___ for follow up. He was found to 
have transaminitis with ALT 568, AST 420 and newly positive 
hepatitis B surface Ag/Core antibody. 

Of note on ___ pt reported 5 weeks of RUQ pain, jaundice, 
scleral icterus preceded by diarrhea. He was seen in clinic 
___. At this visit LFTS were wnl. Hepatitis A/B serologies 
___ (and ___ showed he was hepatitis B ___.

Pt reports he got a tattoo ___ year ago. He denies recent travel 
other than frequent travel to ___, denies unusual foods, 
denies IVDU, recent sexual activity. Denies abdominal pain, F/C, 
CP/SOB, ___ edema, skin rash, jaundice.  
 
Past Medical History:
RETINAL HEMORRHAGES                                             
CHRONIC OBSTRUCTIVE PULMONARY DISEASE                           
CHRONIC LOW BACK PAIN                                           
NECK PAIN                                                       
CIRRHOSIS                                                       
DIVERTICULOSIS                                                  
DEPRESSION                                                      
H/O HEPATITIS C                                                 
H/O CHOLELITHIASIS                                              
H/O COMPOUND FRACTURE                                           
H/O DYSLIPIDEMIA      

 
Social History:
___
Family History:
Mother- ___, bladder cancer, DM, HTN
Father- ___, Lung cancer, bladder cancer, prostate cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
PHYSICAL EXAM:  
VITALS: 97.4 PO 141 / 87  Lying 56 18 97 RA  
GEN: NAD, sitting up in bed
HEENT: PERRL, EOMI, OP clear, MMM, no scleral icterus
NECK: Supple  
CARD: RRR, S1 + S2 present, no mrg
RESP: CTAB, no wheezes/crackles, breathing comfortably RA
ABD: SNTND, +BS, no rebound/guarding
EXT: WWP, no ___ edema
NEURO: AOx3, ___ strength in ___

DISCHARGE PHYSICAL EXAM
=======================
GEN: NAD, sitting up in bed
HEENT: PERRL, EOMI, OP clear, MMM, no scleral icterus
NECK: Supple  
CARD: RRR, S1 + S2 present, no mrg
RESP: CTAB, no wheezes/crackles, breathing comfortably RA
ABD: SNTND, +BS, no rebound/guarding
EXT: WWP, no ___ edema
NEURO: AOx3, ___ strength in ___
 
Pertinent Results:
ADMISSION LABS
___ 07:30PM BLOOD ___ 
___ Plt ___
___ 07:30PM BLOOD Plt ___
___ 07:30PM BLOOD ___ 
___
___ 07:30PM BLOOD ___ 
___
___ 07:30PM BLOOD ___
___ 11:30PM BLOOD ___ HAV ___ IgM ___ IgM 
___
___ 11:30PM BLOOD CMV ___ CMV ___ EBV 
___ EBV ___
___ 11:30PM BLOOD HBV ___ HCV ___
___ 11:30PM BLOOD HCV ___

DISCHARGE LABS
___ 06:50AM BLOOD ___ 
___ Plt ___
___ 06:50AM BLOOD ___ 
___
___ 06:50AM BLOOD ___ LD(LDH)-231 ___ 
___
___ 06:50AM BLOOD ___

IMAGING
___ ABDOMINAL US
1. Cirrhotic liver, without evidence of focal lesion. 
2. Patent portal vein with hepatopetal flow. 
3. Moderate splenomegaly, increased from prior.  No ascites. 
4. Stable moderate intrahepatic and extrahepatic biliary ductal 
dilatation is nonspecific but could suggest ampullary sphincter 
stenosis or reflect the patient's postsurgical state.  MRCP 
recommended for further evaluation. 

 
Brief Hospital Course:
ADMISSION SUMMARY 
=================
___ with a PMH of HCV cirrhosis s/p Interferon/Ribavirin, 
chronic low back pain, depression who p/w transaminitis.

ACUTE ISSUES
============
#Acute Hepatitis B Infection 
Pt was seen in ___ ___ ___ for follow up. He was found to 
have transaminitis with ALT 568, AST 420 and newly positive 
hepatitis B surface Ag/Core antibody. He was admitted to the 
hospital for expedited workup. He denied new sexual partners, 
IVDU or recent blood transfusions; but did have a tattoo 
revision in ___ at a ___ parlor during a ___ 
convention. He had no abdominal pain, diarrhea, f/c, asterixis 
or jaundice. He had a RUQ US that showed a cirrhotic liver with 
patent portal vein, moderate splenomegaly and increase in mild 
intrahepatic biliary ductal dilatation. Hepatology was consulted 
and recommended to HBV viral load, HCV viral load, EBV and CMV 
titers which were pending at time of discharge. He was started 
on entecavir 0.5mg PO daily for HBV treatment and set up with 
outpatient ___. 

Chronic issues
=============== 
# Hepatitis C infection 
- s/p treatment with interferon/ribavirin
- HCV VL pending at discharge 

# Depression: Pt recently prescribed escitalopram which he never 
started. We held Escitalopram due to his transaminitis. This 
should be held until his next PCP appointment and check of his 
liver enzymes. If stable, would be reasonable to start. 

# Chronic Back Pain:
- Referred to ___ per PCP
- ___ MRI ordered by PCP

TRANSITIONAL ISSUES
===================
[] Incidental finding on RUQ US: Stable moderate intrahepatic 
and extrahepatic biliary ductal dilatation is nonspecific but 
could suggest ampullary sphincter stenosis or reflect the 
patient's postsurgical state. MRCP recommended for further 
evaluation. 
[] Needs hepatitis A vaccination
[] f/u HBV VL, HCV VL, EBV titers, CMV titers as outpatient
[] Restart Escitalopram as outpatient by PCP 

#CODE: Full (Presumed)
#CONTACT: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. melatonin 5 mg oral daily 
2. Magnesium Oxide 280 mg PO DAILY 

 
Discharge Medications:
1.  Entecavir 0.5 mg PO DAILY 
RX *entecavir 0.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Magnesium Oxide 280 mg PO DAILY  
3.  melatonin 5 mg oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hepatitis B Virus
Secondary: Depression, chronic back pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___.

Why was in in the hospital?
- You were admitted to the hospital because your liver tests 
were abnormal. 

What was done in the hospital?
- You had more liver tests. 
- You had an ultrasound of your liver.
- You were diagnosed with hepatitis B, which is a type of viral 
infection in your liver. 

What should I do when I leave the hospital?
- You were started on a new mediation to protect you from 
further liver damage. You should continue taking this medication 
until being told to stop by a medical provider. 
- Make sure to check with your doctor before starting any new 
medications or herbal supplements. 
- Continue taking all your medications as prescribed. 
- Make sure to follow up with your primary care doctor. 
- Make sure to follow up with your liver doctor. 

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___